US07767664B2
7,8-Dimethoxy-1H-benzazepine-2,5 (3H, 4H)-dione (Compound 3.2)
A solution of 2,3-dihydro-7,8-dimethoxy-5-hydroxy-2-oxo-1H-[1]-benzazepine-4-carboxylic acid ethyl ester (0.614 g, 1.9 mmol) and water (1 ml) in dimethylsulfoxide (20 ml) was stirred at 150° C. under argon. Portions of water (1 ml) were added after 1 hour and 3 hours heating. After stirring for a total of 6 hours at 150° C., the mixture was cooled to 20° C., poured into ice cold water (20 ml) and allowed to stand overnight at 4° C. The crystals were filtered off and washed with water and hexanes to give the title compound as yellowish crystals (0.325 g, yield 67.7%), mp 230° C.; 1H-NMR (DMSO-d6, 300 MHz): δ (ppm)=8.42 (s; 1H), 7.5 (s; 1H), 6.43 (s; 1H), 3.96 and 3.92 (s; 6H), 2.90 (m, 2H), 2.8 (m; 2H).

reactant | 2,3-dihydro-7,8-dimethoxy-5-hydroxy-2-oxo-1H-[1]-benzazepine-4-carboxylic acid ethyl ester | 1.9 mmol, 0.614 g | C(C)OC(=O)C=1CC(NC2=C(C1O)C=C(C(=C2)OC)OC)=O | C15H17NO6
reactant | water | 1 ml | O | H2O
reactant | water | 1 ml | O | H2O
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 7,8-Dimethoxy-1H-benzazepine-2,5 (3H, 4H)-dione | 0.325 g, yield 67.7% | COC=1C(=CC2=C(C(CCC(N2)=O)=O)C1)OC | C12H13NO4
